US07943788B2
2-(Benzo[b]thiophen-2-ylmethyl)-4-bromo-1-methoxy-naphthalene
2,4-Dibromo-1-methoxynaphthalene (see J. Clayden, et al. Org. Lett., 5, (2003) 831) and benzo[b]thiophene-2-carboxaldehyde were treated in a manner similar to Reference Example 1 to give the target compound.

reactant | 2,4-Dibromo-1-methoxynaphthalene | BrC1=C(C2=CC=CC=C2C(=C1)Br)OC | C11H8Br2O
reactant | benzo[b]thiophene-2-carboxaldehyde | S1C2=C(C=C1C=O)C=CC=C2 | C9H6OS
product | 2-(Benzo[b]thiophen-2-ylmethyl)-4-bromo-1-methoxy-naphthalene | S1C2=C(C=C1CC1=C(C3=CC=CC=C3C(=C1)Br)OC)C=CC=C2 | C20H15BrOS
